* C:\Users\vvuon\Documents\PCU_SU_EPS\Optocoupler_Model.asc
* Generated by LTspice 24.1.10 for Windows.
Din_Opto N004 N006 1N4148
RConv N006 0 10G
B1 N005 0 V={{CTR}*(I(Din_Opto))}
Cd BASE_DRV 0 20p
Rd BASE_DRV N005 10k
Q1 N003 N003 0 0 2N2222
B2 N001 N003 I={V(BASE_DRV)}
VCC N002 0 5
Iin N006 N004 0
RSNS N002 N001 1µ
.model D D
.lib C:\Users\vvuon\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\vvuon\AppData\Local\LTspice\lib\cmp\standard.bjt
* .tran 0 100u 0
.step param CTR list 0.75 1.0 1.25 1.5
.dc Iin 1u 20m 100u
.backanno
.end
