* C:\Users\Vien\Documents\LTspice_Projects\NUFEP_Simulations\LT8330_Boost_Converter.asc
XU3 N007 MP_01 N006 MP_02 0 N004 N008 N004 LT8330
C5 N008 0 1µ
L2 N002 N003 2.2µH Rser=0
R5 N005 N007 2Meg
R6 N007 0 100k
C7 N005 0 10µF Rser=10m
D2 N003 N005 BAT46WJ
V1 N004 0 5
V2 N001 0 3
C1 N005 0 10µF Rser=10m
R1 N002 N001 0.4
M1 N009 N010 0 0 IPB019N06L3
R2 N005 N009 1
V3 N010 0 PULSE(0 5 50m 10u 10u)
M2 N003 N004 N006 N006 IPB019N06L3
.model D D
.lib C:\Users\Vien\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Vien\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 100m
.lib LT8330.sub
.backanno
.end
