* C:\Users\Vien\Documents\LTspice_Projects\Precision_Regulator\LT1009_Precision_Regulator.asc
V1 VCC 0 {mc(5,0.1)}
R1 VCC VREF_2.5V 100
XU1 N006 0 NC_01 LT1009
V2 VREF_2.5V N006 {mc(1m,10)}
Q1 VCC N002 N004 0 2N3055
R2 N001 P001 100
XU2 VREF_2.5V N003 VCC 0 N001 LT1498
C1 OUT 0 100µ
R4 INJ N003 {mc(1.6k,tol_R)}
R5 N003 0 {mc(10k,tol_R)}
R6 N003 0 {mc(10k,tol_R)}
R7 OUT 0 {3.3/IL_NOM}
V3 INJ N004 0 AC 1
C3 N003 N005 0.1µ
R9 N005 N001 1.5k
C4 N003 N001 0.01µ
Q2 VCC P001 N002 0 2N2222
Q3 VCC N010 N013 0 2N3055
R3 N009 P002 100
XU3 VREF_2.5V N011 VCC 0 N009 LT1498
R8 N013 N011 {mc(1.6k,tol_R)}
R10 N011 0 {mc(10k,tol_R)}
R11 N011 0 {mc(10k,tol_R)}
C2 N011 N012 0.1µ
R12 N012 N009 1.5k
C5 N011 N009 0.01µ
Q4 VCC P002 N010 0 2N2222
R13 OUT N004 10m
R14 OUT N013 10m
Q5 VCC N015 N018 0 2N3055
R15 N014 P003 100
XU4 VREF_2.5V N016 VCC 0 N014 LT1498
R16 N018 N016 {mc(1.6k,tol_R)}
R17 N016 0 {mc(10k,tol_R)}
R18 N016 0 {mc(10k,tol_R)}
C6 N016 N017 0.1µ
R19 N017 N014 1.5k
C7 N016 N014 0.01µ
Q6 VCC P003 N015 0 2N2222
R20 OUT N018 10m
Q7 VCC N020 N023 0 2N3055
R21 N019 P004 100
XU5 VREF_2.5V N021 VCC 0 N019 LT1498
R22 N023 N021 {mc(1.6k,tol_R)}
R23 N021 0 {mc(10k,tol_R)}
R24 N021 0 {mc(10k,tol_R)}
C8 N021 N022 0.1µ
R25 N022 N019 1.5k
C9 N021 N019 0.01µ
Q8 VCC P004 N020 0 2N2222
R26 OUT N023 10m
R27 OUT N007 {3.3/(0.5*IL_NOM)}
V4 N008 0 PULSE(0 5 5m 1u 1u 10m 1)
M1 N007 N008 0 0 BSG0811NDQ2
.model NPN NPN
.model PNP PNP
.lib C:\Users\Vien\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Vien\AppData\Local\LTspice\lib\cmp\standard.mos
.step temp list -55 25 125
.tran 0 20m 0 startup
.step param x 250 1
.param TOL_R=0.005
* .ac dec 1k 1 100Meg
.param IL_NOM = 10
.lib LTC.lib
.lib LTC3.lib
.backanno
.end
